US04560692
(a) methyl isonicotinate
A suspension of 100 g of isonicotinic acid (0.812 mol) in 250 ml of methanol was stirred and cooled to 10°. To this mixture was added dropwise 125 ml of sulfuric acid during 15 min. keeping the temperature below 20°. The reaction mixture was allowed to come to room temperature and then heated under reflux for 4.5 hr. After standing overnight it was poured onto 1 kg of ice and made alkaline with 235 g of sodium carbonate. The solid was filtered off, washed with water and with ether, and discarded. The filtrate was extracted with 3×300 ml of ether. The combined organic extracts were washed with water and with brine, dried over sodium sulfate, and concentrated in vacuo to leave 80 g (65%) of crude product as a pale oil.

reactant | isonicotinic acid | 0.812 mol, 100 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | sulfuric acid | 125 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | 235 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 250 ml | CO | CH4O
product | methyl isonicotinate | 80 g, 65% | C(C1=CC=NC=C1)(=O)OC | C7H7NO2
